US08669234B2
[1-(2-{5-[4′-(2-Amino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester was prepared using method 804 substituting [1-(2-{5-[4′-(2-tert-butoxycarbonylamino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester for {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester. C28H33N5O4 calculated 503.3 observed [M+1]+504.2; rt=1.42 min

reactant | [1-(2-{5-[4′-(2-tert-butoxycarbonylamino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CNC(=O)OC(C)(C)C)=O)=O | C33H41N5O6
reactant | {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(N(CCC1)CC=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C40H50N8O6
product | [1-(2-{5-[4′-(2-Amino-acetyl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CN)=O)=O | C28H33N5O4
